US09290446B2
3) Preparation of monofluoromethyl phenyl sulfoxide (Compound II)
Fluoromethyl phenyl sulphide (85 g, 351.63 mmol) was added to a mixture of methanol (250 ml) and water (50 mL). The resulting mixture was cooled to a temperature between 0° C. and 5° C. NBS (75.10 g, 1.2 eq) was added in small portions maintaining the same temperature range. The reaction mixture was stirred until the reaction was complete, and then, was quenched with Na2SO3 solution (10%, 150 mL). The pH of the reaction mixture was adjusted to a value between 7 and 8 with NaHCO3 saturated solution. The mixture was concentrated under vacuum at a temperature between 20° C. and 25° C. The residue was extracted with dichloromethane (200 mL, 300 mL). The combined organic layer was washed with water (2×300 mL) and concentrated to ⅓ of the volume. Heptane (50 mL) was added and the resulting mixture was concentrated again. The crude product was purified by flash chromatography (Ethyl Acetate/Hexane 30:70) to give 49.8 g (89.6%) of the desired product as colourless oil at rt, which is a white solid at −20° C.

reactant | Fluoromethyl phenyl sulphide | 351.63 mmol, 85 g | C1(=CC=CC=C1)SCF | C7H7FS
reactant | methanol | 250 ml | CO | CH4O
reactant | NBS | 75.10 g, 1.2 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | water | 50 mL | O | H2O
product | monofluoromethyl phenyl sulfoxide | 49.8 g, 89.6% | C1(=CC=CC=C1)S(=O)CF | C7H7FOS
